US06573274B1
To a suspension of methyl 3-(2-chloro-4-(1-propoxy)benzyl)-2,7-dimethyl-3H-imidazo[4,5-b]pyridine-5-carboxylate (475 mg) in 1,4-dioxane was added 1N aqueous sodium hydroxide solution, and the mixture was heated to 60° C. and stirred for 30 min. It was air cooled and adjusted to pH 4 by dropwise addition of 1N hydrochloric acid. Water (25 ml) was added and the mixture was stirred at room temperature. The precipitated crystals were collected by filtration and dried under reduced pressure at 60° C. Thereto was added acetonitrile (3 ml) and the mixture was heated and stirred at room temperature. The crystals were collected by filtration and dried under reduced pressure at 60° C. to give 3-(2-chloro-4-(1-propoxy)benzyl)-2,7-dimethyl-3H-imidazo[4,5-b]pyridine-5-carboxylic acid as thin yellow crystals (426 mg).

reactant | methyl 3-(2-chloro-4-(1-propoxy)benzyl)-2,7-dimethyl-3H-imidazo[4,5-b]pyridine-5-carboxylate | 475 mg | ClC1=C(CN2C(=NC=3C2=NC(=CC3C)C(=O)OC)C)C=CC(=C1)OCCC | C20H22ClN3O3
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | Water | 25 ml | O | H2O
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | 3-(2-chloro-4-(1-propoxy)benzyl)-2,7-dimethyl-3H-imidazo[4,5-b]pyridine-5-carboxylic acid | 426 mg | ClC1=C(CN2C(=NC=3C2=NC(=CC3C)C(=O)O)C)C=CC(=C1)OCCC | C19H20ClN3O3
